Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old female with a history of reported
COPD on ___, a fib on apixaban, moderate AS, CAD s/p CABG,
HFpEF (EF ___ 55-60%), IDDM, HLD, and recent admission for
hypoglycemia caused by an underlying UTI who is presented to the
___ today for a worsening shortness of breath, now being
admitted to cardiology for acute on chronic HFpEF exacerbation.

Information obtained from review of records. Her recent HFpEF
course starts with a recent admission to ___ on 
___
for a UTI. During this admission she was noted to have ___ 
and
___ to be euvolemic so her ___ was held. It was restarted in
setting of improving Cr, however again had ___ and received IV
fluids. Her ___ was held on discharge with weight 188 lbs.

She was then seen at the ___ on ___ for a follow up post
discharge visit and at this time had some trace lower extremity
edema and fine bibasilar crackles and was restarted on 1 mg 
___
with instruction to increase to 1.5mg should her weight increase
by 3 lbs. Since that visit, she has been back at rehab facility.
There she has been noted to be hypoxic to ___ while working
with ___. In about the same time period she was a redness 
appeared
on her right lower extremity and was treated as a cellulitis 
with
Keflex, transitioned to levofloxacin when she did not improve 
and
then taken off antibiotics when there was no improvement, no
drainage, afebrile. RLE U/S negative for DVT. Her weight had
steadily increased over a 2 week period to 191 lbs and her rehab
doctor recently increased her ___ to 1.5mg and then 2mg daily. 


On the floor, she endorsed the above history and notes that her
breathing has worsened with decreased exercise tolerance, 
needing
to increase the number of pillows she's using. She denies 
current
chest pain, palpitations, nausea, vomiting, fevers/chills. She
did take her home ___ this morning, but otherwise did not
receive IV diuresis in the CDAC.
 
REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain,
paroxysmal nocturnal dyspnea, palpitations, syncope, or
presyncope.   

 
Past Medical History:
 
PAST MEDICAL HISTORY:  
CAD s/p CABG and multiple ___
HFpEF (LVEF = 53% in ___
Hypertension
T2DM
Hyperlipidemia
Peripheral Neuropathy  
h/o herniated disk (receives monthly injections) 
Macular degeneration of L eye 
Cholecystectomy
Venous Stasis
Dry Skin
Hemorrhoids
Bone spur on right foot
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
Admission
=========
VS: 97.8 121/74 75 22 93 3l 
GENERAL: appears mildly uncomfortable, laying in bed
HEENT: anicteric sclera, moist oral mucosa, PERRL
CV: irregular rate and rhythm, ___ systolic murmur heard best at
the LUSB. JVP ___ at 30 degrees
Pulm: bibasilar crackles, no wheezing
Lower Ext: 2+ pitting edema bilaterally, right>left, warm,
overlying red erythema extending from the foot to upper shin
extending posteriorly as well
Neuro: awake oriented X3 

Discharge
=========
Vitals 98.2 107/61 68 18 94% on 3L
Weight 79.9kg --> 77.7kg
I/O ___
GENERAL: Elderly female, appearing stated age, sitting in 
bedside
chair.
HEENT: anicteric sclera, moist oral mucosa, PERRL, hard of
hearing, blind in Left eye.
NECK: supple, JVD ~8cm
CV: irregular rate and rhythm, no appreciated m/g/r.
Pulm: bibasilar crackles, no wheezings or rhonchi
Abd: soft, NT, ND, +BS
Lower Ext: 2+ pitting edema bilaterally, warm, overlying red
erythema extending from the foot to upper shin extending
posteriorly as well, stable/mildly receded
Neuro: Strength ___ in UE and ___.
 
Pertinent Results:
Admission labs
==============
___ 11:05PM BLOOD WBC-11.3* RBC-3.45* Hgb-10.3* Hct-32.3* 
MCV-94 MCH-29.9 MCHC-31.9* RDW-14.6 RDWSD-49.8* Plt ___
___ 11:05PM BLOOD ___ PTT-31.6 ___
___ 11:05PM BLOOD Glucose-123* UreaN-30* Creat-1.1 Na-138 
K-3.2* Cl-97 HCO3-27 AnGap-14
___ 11:05PM BLOOD ALT-12 AST-19 LD(LDH)-192 AlkPhos-115* 
TotBili-1.1
___ 11:05PM BLOOD Calcium-8.7 Phos-3.7 Mg-1.8

Discharge labs
==============
___ 06:48AM BLOOD WBC-9.5 RBC-3.45* Hgb-10.4* Hct-32.2* 
MCV-93 MCH-30.1 MCHC-32.3 RDW-14.7 RDWSD-50.3* Plt ___
___ 06:48AM BLOOD Plt ___
___ 06:48AM BLOOD Glucose-115* UreaN-32* Creat-1.1 Na-139 
K-4.1 Cl-97 HCO3-26 AnGap-16
___ 06:48AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.1

Imaging & studies
=================
CXR ___
IMPRESSION:  
Lungs are low volume with bibasilar atelectasis.  There is 
moderate 
cardiomegaly.  There is a small left pleural effusion.  No 
pneumothorax is 
seen. 

Microbiology
============
none
 
Brief Hospital Course:
Ms. ___ is an ___ year old female with a history of reported 
COPD on 3L 02, a fib on apixaban, moderate AS, CAD s/p CABG, 
HFpEF (EF ___ 55-60%), IDDM, HLD, and recent changes in her 
diuretic regimen who presents with heart failure exacerbation 
and erythema overlying her right shin concerning for cellulitis. 


Active Issues: 
================
# Acute on chronic diastolic heart failure
Patient with a history of HFpEF with recent TTE from ___ 
demonstrating EF of 55-60% with LVH and moderate pulm HTN. 
Developed weight gain and worsening dyspnea in the setting of 
holding ___ at last admission. On admission, her weight was 
190lbs and she had dyspnea at rest requiring 4L O2 (she required 
3L O2 last discharge) and desats to 60-70s on ambulation. She 
was started on furosemide gtt, eventually uptitrated to 20mg/hr, 
with weight decrease to ***171.3lbs***, decreased O2 requirement 
to 2L, and stable Cr at 1.1. She was then switched to torsemide 
100mg PO once daily, tolerating well.

# Acute hypoxic respiratory failure: 
Home ___ requirement is 3L. At ___, 4L O2 requirement and 
desaturates to 60-70% O2 with ambulation. This apparently was 
chronic although likely acutely worsened in the setting of 
volume overload. CXR was fairly unremarkable and already on 
anticoagulation. Had declined OSA evaluation in the past. She 
was diuresed with improvement in resting and ambulatory O2 sats 
as well as dyspnea. Her O2 was weaned down to home level of ___ 
NC.

# R ___ cellulitis:
Patient had a 1 week history of right lower extremity erythema 
s/p treatment with cephalexin and levofloxacin, ultimately 
discontinued as felt not to be a true infection. On admission, 
she had R > L erythema although without leukocytosis or warmth. 
Empirically treated cellulitis with ceftriaxone 1g q24h for 7 
day treatment course (___).

#Atrial Fibrillation: CHADs2 of 4. With EKG in clinic consistent 
with AFib. She was continued on home apixaban at 5mg BID and 
home metoprolol 12.5 mg XL daily

#Diarrhea: She had diarrhea on admission in the setting of 
recent antibiotics and recent constipation with treatment with 
magnesium citrate. C. diff was held off as it resolved.

CHRONIC ISSUES:
===============
#Lung nodule 
15 mm nodule in the apicoposterior segment of the left upper 
lobe is concerning for primary lung malignancy. Single enlarged 
anterior mediastinal lymph node is also concerning.  Plan for 
PET-CT or short-term follow-up CT chest in ___ weeks from 
___

#CAD: Continued home atorvastatin 80mg daily. Started ASA 81 as 
unclear why she was not on it at home.

#Low back pain: Continued acetaminophen prn with home vicodin 
prn for breakthrough

#Rectal pain: Continued home suppositories

#Peripheral neuropathy: Continued home gabapentin 

#COPD: Patient has reported history of COPD, however her recent 
PFTs argue for a restrictive pattern and she has no smoking 
history. She was continued on albuterol PRN Q6 hours and Advair 
while inpatient as symbicort was non-formulary.

#DMII: Continued home glargine 25 U at bedtime. Held home 
sitagliptin and started on HISS while inpatient.

#Moderate AS: Patient with AS (peak gradient of 34) on recent 
TTE. Plan to monitor closely with TTE annually.

# GERD: Continued home omeprazole

TRANSITIONAL ISSUES:  
====================
Medication changes
------------------
[] Discharged on 100mg torsemide daily, stopped ___
[] Started spironolactone 25mg daily

Other issues
------------
Discharge weight: ***171.3***
Discharge Cr: 1.1
[] Please trend urine output closely, goal net even ins-and-outs
[] Please recheck Chem10 in ___ days after discharge to ensure 
that Cr is stabile
[] Please ensure that weight is stable and call cardiologist if 
weight increases or decreases by more than 5lbs from discharge
[] PET-CT or short-term follow-up CT chest in ___ weeks from 
___ for lung nodule
[] Monitor aortic stenosis with annual TTE (last ___
[] Consider outpatient evaluation with sleep study for OSA as 
well as other optimization given significant desaturation with 
ambulation

# LANGUAGE: ___  
# CODE:  DNR/DNI (MOLST, confirmed with patient)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bumetanide 2 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. Polyethylene Glycol 17 g PO DAILY 
4. Artificial Tears 1 DROP BOTH EYES TID 
5. GuaiFENesin 10 mL PO Q6H:PRN cough 
6. Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID 
7. Glargine 25 Units Bedtime
8. Dibucaine 1 % topical TID:PRN hemorrhoids 
9. Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line 
10. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
11. Apixaban 5 mg PO BID 
12. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
13. Loratadine 10 mg PO DAILY 
14. Gabapentin 300 mg PO BID 
15. Metoprolol Succinate XL 12.5 mg PO DAILY 
16. Lidocaine 5% Patch 1 PTCH TD QAM foot pain 
17. Omeprazole 20 mg PO DAILY 
18. SITagliptin 100 mg oral QHS 
19. Hydrocortisone (Rectal) 2.5% Cream ___ID 
20. Atorvastatin 80 mg PO QPM 
21. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
22. Ondansetron 4 mg PO Q8H:PRN nausea 
23. Senna 8.6 mg PO BID:PRN Constipation - Second Line 
24. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate 
25. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 

 
Discharge Medications:
1.  Spironolactone 25 mg PO DAILY  
2.  Torsemide 100 mg PO DAILY  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath  
5.  Apixaban 5 mg PO BID  
6.  Artificial Tears 1 DROP BOTH EYES TID  
7.  Atorvastatin 80 mg PO QPM  
8.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
9.  Dibucaine 1 % topical TID:PRN hemorrhoids  
10.  Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID  

11.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
 
12.  Gabapentin 300 mg PO BID  
13.  GuaiFENesin 10 mL PO Q6H:PRN cough  
14.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate  
15.  Hydrocortisone (Rectal) 2.5% Cream ___ID  
16.  Glargine 25 Units Bedtime 
17.  Lidocaine 5% Patch 1 PTCH TD QAM foot pain  
18.  Loratadine 10 mg PO DAILY  
19.  Metoprolol Succinate XL 12.5 mg PO DAILY  
20.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
21.  Omeprazole 20 mg PO DAILY  
22.  Ondansetron 4 mg PO Q8H:PRN nausea  
23.  Polyethylene Glycol 17 g PO DAILY  
24.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
25.  SITagliptin 100 mg oral QHS  
26.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Acute on chronic diastolic heart failure

SECONDARY DIAGNOSIS:
====================
Acute hypoxic respiratory failure
Right lower extremity cellulitis
Atrial Fibrillation
COPD
Coronary artery disease
Type 2 diabetes mellitus with peripheral neuropathy
Low back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the hospital because you had been feeling 
short of breath and you were found to have fluid on your lungs. 
This was felt to be due to a condition called heart failure, 
where your heart does not pump hard enough and fluid backs up 
into your lungs.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You were given a diuretic medication through the IV to help 
get the fluid out. You improved considerably and were ready to 
leave the hospital.  

WHAT SHOULD I DO WHEN I GO HOME?  
================================
- Your weight at discharge is ***176lbs***. Please weigh 
yourself today at home and use this as your new baseline.
- Please weigh yourself every day in the morning. Call your 
doctor if your weight goes up by more than 3 lbs.  

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team
 
Followup Instructions:
___